US07074817B2
{1-(4-Methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}acetic acid
The title compound was prepared from {1-(4-methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetic acid, hydrazine monohydrate and sodium methoxide according to the procedure described in Example 64. The product was obtained as a brown solid, mp: 62-63° C. Mass spectrum (−ESI, [M−H]−) m/z 438. 1HNMR (400 MHz, DMSO-d6): δ 7.79 (s, 1H), 7.75 (d, 2H, J=8.70 Hz), 7.50 (d, 1H, J=8.56 Hz), 7.42-7.39 (m, 4H), 7.12 (d, 2H, J=8.55 Hz), 7.11 (d, 2H, J=8.55 Hz), 5.34 (s, 2H), and 2.23 ppm (s, 3H).

reactant | {1-(4-methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetic acid | CC1=CC=C(CN2C=C(C3=CC(=CC=C23)C2=CC=C(C=C2)OC(F)(F)F)C(C(=O)O)=O)C=C1 | C25H18F3NO4
reactant | hydrazine monohydrate | O.NN
reactant | sodium methoxide | C[O-].[Na+]
product | {1-(4-Methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}acetic acid | CC1=CC=C(CN2C=C(C3=CC(=CC=C23)C2=CC=C(C=C2)OC(F)(F)F)CC(=O)O)C=C1 | C25H20F3NO3
